US08877782B2
a) 2-Fluoro-benzaldehyde oxime
To a suspension of 2-fluorobenzaldehyde (63.3 g, 495 mmol) and hydroxylamine hydrochloride (38.2 g, 544 mmol) in ethanol (36 mL) and water (69 mL) was added ice (205 g). Then an aqueous solution of sodium hydroxide (32%, 115 mL, 1.24 mol) was added dropwise within a 10 min period (temperature rises from −8° C. to +7° C.) whereupon most of the solid dissolves. After 1 h stirring at room temperature the resulting mixture was then acidified with HCl (5 N). The mixture was then extracted with dichloromethane to afford the title compound (66.8 g, 97%) which was obtained as a light yellow solid. MS m/e (EI): 139.0 [M].

reactant | 2-fluorobenzaldehyde | 495 mmol, 63.3 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | hydroxylamine hydrochloride | 544 mmol, 38.2 g | Cl.NO
reactant | sodium hydroxide | 1.24 mol, 115 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | ethanol | 36 mL | C(C)O | C2H6O
solvent | water | 69 mL | O | H2O
product | 2-Fluoro-benzaldehyde oxime | 66.8 g, 97% | FC1=C(C=NO)C=CC=C1 | C7H6FNO
